US07271170B2
Glyoxal (40% w/w H2O, 20 mL) and ammonium hydroxide (con. 40 mL) are added to a solution of 6-chloro-pyridine-2-carbaldehyde (0.127 mol; prepared from 2-chloro-6-methyl-pyridine essentially as described by Vacher et al. (1998) J. Med. Chem. 41:5080) in MeOH (620 mL) at 0° C. The mixture is allowed to warm gradually to room temperature over an 18 hour period. The solvent is removed. Water (125 mL) is added to the residue and the mixture is extracted with methylene chloride (5×150 mL). The combined organic layers are washed with brine (2×100 mL), dried and solvent removed. The crude product is triturated with ethyl ether (200 mL) to give 2-chloro-6-(1H-imidazol-2-yl)-pyridine as a solid.

reactant | Glyoxal | 20 mL | C(=O)C=O | C2H2O2
reactant | ammonium hydroxide | 40 mL | [OH-].[NH4+]
reactant | 6-chloro-pyridine-2-carbaldehyde | ClC1=CC=CC(=N1)C=O | C6H4ClNO
reactant | 2-chloro-6-methyl-pyridine | ClC1=NC(=CC=C1)C | C6H6ClN
solvent | MeOH | 620 mL | CO | CH4O
product | 2-chloro-6-(1H-imidazol-2-yl)-pyridine | ClC1=NC(=CC=C1)C=1NC=CN1 | C8H6ClN3
